US05281571
A solution of 3.4 g (0.01 mole) 4-chloro-3-(2,4-difluoro-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole and 1.4 mL (0.011 mole) butyl glycolate in 25 mL anhydrous THF was chilled to 0° C. Maintaining the temperature below 5° C, 0.33 g (0.011 mole) NaH was added in portions. Once the addition was completed, the reaction mixture was allowed to warm to 25° C. After 3 hours the mixture was carefully quenched with water and extracted with ethyl acetate. The ethyl acetate extracts were washed with brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified chromatographically with 20% ethyl acetate/hexanes to yield 3.25 g (72%) (4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenoxy)acetic acid, butyl ester as a light yellow solid; mp 65° C.

reactant | 4-chloro-3-(2,4-difluoro-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 0.01 mole, 3.4 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C11H5ClF5N3O2
reactant | butyl glycolate | 0.011 mole, 1.4 mL | C(CO)(=O)OCCCC | C6H12O3
reactant | NaH | 0.011 mole, 0.33 g | [H-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenoxy)acetic acid, butyl ester | 3.25 g, 72% | ClC=1C(=NN(C1C(F)(F)F)C)C1=CC(=C(OCC(=O)OCCCC)C=C1F)[N+](=O)[O-] | C17H16ClF4N3O5
